US09284284B2
l) 5-[5-(4-Bromo-2-chloro-benzylamino)-2-fluoro-phenyl]-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
{5-[5-(4-Bromo-2-chloro-benzylamino)-2-fluoro-phenyl]-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester (82 mg, 0.151 mmol) were suspended in 1.1 ml HCl/Dioxane (4M). A few drops HCl/MeOH (3M) were added and the mixture was stirred at 50° C. for 2 h. The mixture was evaporated, taken up in 10% aq soda, extracted with DCM and dried with Na2SO4. The title compound was purified via chromatography on silica gel [DCM/1-5%(MeOH/DCM 10:90)]. The product was dissolved in Et2O and precipitated as its hydrochloride salt by adding 1N HCl/Et2O.

reactant | {5-[5-(4-Bromo-2-chloro-benzylamino)-2-fluoro-phenyl]-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl}-carbamic acid tert-butyl ester | 0.151 mmol, 82 mg | C(C)(C)(C)OC(NC=1COCC(N1)(CF)C1=C(C=CC(=C1)NCC1=C(C=C(C=C1)Br)Cl)F)=O | C23H25BrClF2N3O3
solvent | HCl Dioxane | 4M, 1.1 ml | Cl.O1CCOCC1
catalyst | HCl MeOH | 3M, A few drops | Cl.CO
product | 5-[5-(4-Bromo-2-chloro-benzylamino)-2-fluoro-phenyl]-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | BrC1=CC(=C(CNC=2C=CC(=C(C2)C2(N=C(COC2)N)CF)F)C=C1)Cl | C18H17BrClF2N3O
